US06936612B2
8-Cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (200 mg, 0.7 mmol) prepared as in Example 107 of WO 98/33798 (incorporated herein by reference) and 2-aminopyridine (130 mg, 1.4 mmol) were combined in a 10 mL round-bottomed flask. The flask was purged with nitrogen (10 min), then heated in a 160° C. oil bath (30 min). After cooling, the orange residue was triturated with water to afford an orange solid, which was further purified by reversed-phase HPLC purification. [Vydac C18 TP254 (30 mm×100 mm); A: ACN (acetonitrile)+0.1% TFA (trifluor acetic acid); B; H2O+0.1% TFA; 10%-76% B over 40 min]. 15 mg of 8-cyclopentyl-2-(pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one was isolated as a yellow solid. Mp: >250° C., Anal. HPLC [Vydac C18 TP254 (4.6×150 mm); A: ACN+0.1% TFA; B; H2O+0.1% TFA; 10%-76% B over 20 min]: >98% Rt=13.9 min.

reactant | 8-Cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.7 mmol, 200 mg | C1(CCCC1)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C13H15N3O2S
reactant | 2-aminopyridine | 1.4 mmol, 130 mg | NC1=NC=CC=C1 | C5H6N2
product | 8-cyclopentyl-2-(pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 15 mg | C1(CCCC1)N1C(C=CC2=C1N=C(N=C2)NC2=NC=CC=C2)=O | C17H17N5O
